US06747025B1
Preparation of 3-[(4-morpholinophenylamino)-methylene]-1,3-dihydro-indol-2-one
A solution of 4-morpholinoaniline (8.3 g, 51.5 mmol) in 100 mL of tetrahydrofuran was treated with 3-hydroxymethylene-1,3-dihydro-indol-2-one (5.5 g, 30.9 mmol) in one portion. The reaction mixture was heated at reflux for 3 h. The reaction mixture was concentrated. The residue was treated with 125 mL of ethyl acetate and the resulting suspension was heated at 40° C. for 2 h. The suspension was cooled to room temperature and the solid collected by suction filtration and washed with ethyl acetate. The solid obtained was dried under vacuum to give the title compound (10.1 g, 92%) as a yellow solid.

reactant | 4-morpholinoaniline | 51.5 mmol, 8.3 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | 3-hydroxymethylene-1,3-dihydro-indol-2-one | 30.9 mmol, 5.5 g | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-[(4-morpholinophenylamino)-methylene]-1,3-dihydro-indol-2-one | 10.1 g, 92% | O1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C19H19N3O2
